US07276612B2
A solution of 4-{2-[(3-methylbenzofuran-2-carbonyl)amino]ethoxy}benzoic acid methyl ester (0.340 mol) in chlorobenzene (1000 ml) was treated with 2,2′-azobisisobutyronitrile (5.60 g, 0.017 mol) and N-bromosuccinimide (75.76 g, 0.426 mol). The resulting mixture is heated to 80° C. and stirred for one hour. After completion of reaction, the reaction mixture was cooled to ambient temperature and washed with water, 3% sodium hydrogensulfite, and again with water. Solvent was distilled under reduced pressure and after cooling to ambient temperature, dichloromethane was added and to give 4-{2-[(3-bromomethylbenzofuran-2-carbonyl)amino]ethoxy}benzoic acid methyl ester which was used in the next step.

reactant | 4-{2-[(3-methylbenzofuran-2-carbonyl)amino]ethoxy}benzoic acid methyl ester | 0.340 mol | COC(C1=CC=C(C=C1)OCCNC(=O)C=1OC2=C(C1C)C=CC=C2)=O | C20H19NO5
reactant | 2,2′-azobisisobutyronitrile | 0.017 mol, 5.60 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | N-bromosuccinimide | 0.426 mol, 75.76 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chlorobenzene | 1000 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 4-{2-[(3-bromomethylbenzofuran-2-carbonyl)amino]ethoxy}benzoic acid methyl ester | COC(C1=CC=C(C=C1)OCCNC(=O)C=1OC2=C(C1CBr)C=CC=C2)=O | C20H18BrNO5
